US05441953
To a 0° C. solution of 4.59 g (13.7 mmol) of methyl (E)-6-(1,3-dihydro-4-hydroxy-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoate and 2.22 ml (27.4 mmol) of pyridine in 100 ml of methylene chloride was added 2.55 ml (15.1 mmol) of trifluoromethane sulfonic anhydride dropwise. After 30 minutes, the reaction mixture was poured into 1N aqueous sodium hydrogen sulfate. This mixture was extracted with dichloromethane, and the organic phase was further washed with water and brine. The organic phase was dried over magnesium sulfate and concentrated under reduced pressure. Trituration of the residue with hexane gave 5.7 g (12.2 mmol) of methyl (E)-6-(1,3-dihydro-4-trifluoromethylsulfonyloxy-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoate as a white solid, mp 53°-55° C.

reactant | methyl (E)-6-(1,3-dihydro-4-hydroxy-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoate | 13.7 mmol, 4.59 g | OC1=C2C(OCC2=C(C(=C1C/C=C(/CCC(=O)OC)\C)OC)C)=O | C18H22O6
reactant | pyridine | 27.4 mmol, 2.22 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethane sulfonic anhydride | 15.1 mmol, 2.55 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | sodium hydrogen sulfate | 1N | S(=O)(=O)(O)[O-].[Na+]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
product | methyl (E)-6-(1,3-dihydro-4-trifluoromethylsulfonyloxy-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoate | 12.2 mmol, 5.7 g | FC(S(=O)(=O)OC1=C2C(OCC2=C(C(=C1C/C=C(/CCC(=O)OC)\C)OC)C)=O)(F)F | C19H21F3O8S
